US08975415B2
The mixture of 6′-bromodispiro[cyclobutane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-amine (185 mg, 0.57 mmol), di-tert-butyl dicarbonate (374 mg, 1.7 mmol), N,N-dimethylpyridin-4-amine (3.4 mg, 0.029 mmol), and N,N-diethylethanamine (173 mg, 1.7 mmol) in THF (20 mL) was stirred overnight at ambient temperature. The mixture was concentrated in vacuo, and the residue was purified by silica gel chromatography (hexane:EtOAc=100:0-80:20) to give tert-butyl (6′-bromodispiro[cyclobutane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate (223 mg).

reactant | 6′-bromodispiro[cyclobutane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-amine | 0.57 mmol, 185 mg | BrC=1C=C2C(=CC1)OCC1(CCC1)C21N=C(OC1)N | C14H15BrN2O2
reactant | di-tert-butyl dicarbonate | 1.7 mmol, 374 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diethylethanamine | 1.7 mmol, 173 mg | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylpyridin-4-amine | 0.029 mmol, 3.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (6′-bromodispiro[cyclobutane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate | 223 mg | BrC=1C=C2C(=CC1)OCC1(CCC1)C21N=C(OC1)NC(OC(C)(C)C)=O | C19H23BrN2O4
